US07799822B2
Prepared using general procedure 61: To a yellow solution of di-tert-butyl azo-dicarboxylate (2.23 g, 9.7 mmol) in THF (25 mL) at 0° C. under N2 was slowly added tributylphosphine (2.4 mL, 9.7 mmol), The resulting colorless solution of the Mitsunobu reagent was stirred at RT for 10 min, and then added to a solution of (S)-2-(6-Chloro-3,4-dihydroquinolin-1(2H)-yl)-4-hydroxy-N-phenylbutanamide (2.56 g, 7.4 mmol) in THF (25 mL) at 0° C. under N2. The reaction mixture was stirred for 10 min. at this temperature, and quenched by addition of a saturated aqueous NaHCO3 solution. EtOAc was added, the phases were separated, and the aqueous layer was extracted with EtOAc (2×). The combined organic extracts were dried over MgSO4 and concentrated. Purification via silica gel chromatography using 20-40 EtOAc in hexane gave (S)-3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-1-phenylpyrrolidin-2-one as a white solid (2.43 g, 100%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=327.5; tR=1.50 min.

reactant | di-tert-butyl azo-dicarboxylate | 9.7 mmol, 2.23 g | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | tributylphosphine | 9.7 mmol, 2.4 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (S)-2-(6-Chloro-3,4-dihydroquinolin-1(2H)-yl)-4-hydroxy-N-phenylbutanamide | 7.4 mmol, 2.56 g | ClC=1C=C2CCCN(C2=CC1)[C@H](C(=O)NC1=CC=CC=C1)CCO | C19H21ClN2O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (S)-3-(6-chloro-3,4-dihydroquinolin-1(2H)-yl)-1-phenylpyrrolidin-2-one | 2.43 g, 100% | ClC=1C=C2CCCN(C2=CC1)[C@@H]1C(N(CC1)C1=CC=CC=C1)=O | C19H19ClN2O
